US06521716B1
To 1,4-diazacycloheptane (81.90 g, 0.819 mol) in xylene (525 ml) at 122° C. was added with stirring 2,2,6-trimethyl-1,3-dioxen-4-one (232.49 g, 1.637 mol) in xylene (525 ml) over 10 minutes, during which the temperature decreased to 99° C. After heating to 124° C. over 5 minutes vigorous effervescence commenced, and after heating to 127° C. over 5 minutes distillation of acetone (through a Vigreux column) also commenced. Pot temperature was increased to 140° C. over a further 30 minutes, with collection of acetone distillate. After cooling to 15° C. overnight, supernatant liquid was separated from deposited syrup, which was dissolved in dichloromethane. Removal of solvent from combined solutions and drying (91° C./100 Pa) gave N,N′-bis(acetoacetyl)-1,4-diazacycloheptane (BAADCH) as a viscous syrup (211.16 g, 96%), identified by 1H-NMR, 13C-NMR, FT-IR and Raman spectra.

reactant | 1,4-diazacycloheptane | 0.819 mol, 81.90 g | N1CCNCCC1 | C5H12N2
reactant | 2,2,6-trimethyl-1,3-dioxen-4-one | 1.637 mol, 232.49 g | CC1=CC(=O)OC(O1)(C)C | C7H10O3
solvent | xylene | 525 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 525 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N,N′-bis(acetoacetyl)-1,4-diazacycloheptane | 211.16 g, 96% | C(CC(=O)C)(=O)N1CCN(CCC1)C(CC(=O)C)=O | C13H20N2O4
